US08461167B2
Potential Synthesis of 3-{[5-(2-amino-2-oxoethyl)pyrazin-2-yl]ethynyl}-4-methyl-N-{4-[(4-methylpiperazin-1-yl)methyl]-3-(trifluoromethyl)phenyl}benzamide
The title compound can be prepared as for example 1 using 2-(5-bromopyrazin-2-yl)acetamide and 3-ethynyl-4-methyl-N-{4-(4-methyl-piperazin-1-ylmethyl)-3-trifluoromethyl-phenyl}-benzamide.

reactant | 2-(5-bromopyrazin-2-yl)acetamide | BrC=1N=CC(=NC1)CC(=O)N | C6H6BrN3O
reactant | 3-ethynyl-4-methyl-N-{4-(4-methyl-piperazin-1-ylmethyl)-3-trifluoromethyl-phenyl}-benzamide | C(#C)C=1C=C(C(=O)NC2=CC(=C(C=C2)CN2CCN(CC2)C)C(F)(F)F)C=CC1C | C23H24F3N3O
product | 3-{[5-(2-amino-2-oxoethyl)pyrazin-2-yl]ethynyl}-4-methyl-N-{4-[(4-methylpiperazin-1-yl)methyl]-3-(trifluoromethyl)phenyl}benzamide | NC(CC=1N=CC(=NC1)C#CC=1C=C(C(=O)NC2=CC(=C(C=C2)CN2CCN(CC2)C)C(F)(F)F)C=CC1C)=O | C29H29F3N6O2
